US08183380B2
Step A: 9-Methyl-3-thia-9-aza-bicyclo[3.3.1]nonan-7-one oxime:
A mixture of 9-Methyl-3-thia-9-aza-bicyclo[3.3.1]nonan-7-one (CAS no: 99709-31-6) (3.0 g, 17.5 mmol) in ethanol (100 mL) and hydroxylamine hydrochloride (1.58 g, 22.8 mmol) was refluxed for 16 h. Cooled to 23° C., the precipitate was filtered off, washed with ethanol and diethyl ether and dried in vacuum to give a light brown solid (2.5 g), which was partitioned between dichloromethane and sodium carbonate solution, the organic layers dried over Na2SO4, filtered and the solvents evaporated to give the title compound as a white solid. (1.3 g, 40%); MS: m/e=187.1 (M+H+).

reactant | 9-Methyl-3-thia-9-aza-bicyclo[3.3.1]nonan-7-one | CN1C2CSCC1CC(C2)=O | C8H13NOS
reactant | hydroxylamine hydrochloride | 22.8 mmol, 1.58 g | Cl.NO
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 9-Methyl-3-thia-9-aza-bicyclo[3.3.1]nonan-7-one oxime | 2.5 g | CN1C2CSCC1CC(C2)=NO | C8H14N2OS
